US04322420
4-Anilino-7-trifluoromethylquinazoline (Compound No. 17)
2.5 g of 4-chloro-7-trifluoromethylquinazoline were dissolved in 10 ml of ethanol, and 1.0 g of aniline was added to the solution. Reaction occurred violently and the reaction mixture solidified immediately. After cooling, the solidified product was collected and washed with ethanol. The resulting crystals were pulverized and added to a dilute aqueous solution of sodium hydroxide. Insolubles were filtered off and recrystallized from ethanol to give 1.7 g (yield 60%) of the desired Compound No. 17 in the form of colourless plates melting at 230°-232° C.

reactant | 4-chloro-7-trifluoromethylquinazoline | 2.5 g | ClC1=NC=NC2=CC(=CC=C12)C(F)(F)F | C9H4ClF3N2
reactant | aniline | 1.0 g | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-Anilino-7-trifluoromethylquinazoline | 1.7 g, yield 60% | N(C1=CC=CC=C1)C1=NC=NC2=CC(=CC=C12)C(F)(F)F | C15H10F3N3
